US07728018B2
3-Phenyl-but-3-en-2-one
1-Phenyl-propan-2-one (40.8 g) was dissolved in 200 ml of MeOH. Formaline (37%) (79 mL), piperidine (4 ml) and HOAc (4 ml) where added and de reaction was stirred for 3 h at 60° C. The reaction mixture was evaporated to dryness under reduced pressure. The residue was taken up in diethyl ether, and extracted with water. The organic layer was washed with 1M HCl, dried over MgSO4 and evaporated under reduced pressure to yield 36.3 g of a yellow liquid. 1H NMR (400 MHz, CDCl3) δ 2.41 (s, 3H), 5.87 (s, 1H), 6.18 (s, 1H), 7.24-7.40 (m, 5H).

reactant | 1-Phenyl-propan-2-one | 40.8 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | Formaline | 79 mL | C=O | CH2O
reactant | piperidine | 4 ml | N1CCCCC1 | C5H11N
reactant | HOAc | 4 ml | CC(=O)O | C2H4O2
solvent | MeOH | 200 ml | CO | CH4O
product | 3-Phenyl-but-3-en-2-one | 36.3 g | C1(=CC=CC=C1)C(C(C)=O)=C | C10H10O
